US07700552B2
4-isopropylthiazole-2-carboxylic acid (2-carbamoyl-phenyl)-amide (49)
2-Aminobenzamide (2.04 g, 15 mmol) was reacted with 4-isopropylthiazole-2-carboxylic acid (2.5 g, 14.6 mmol) as described in example 47 which gave the title compound (2.4 g, 56%).

reactant | 2-Aminobenzamide | 15 mmol, 2.04 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 4-isopropylthiazole-2-carboxylic acid | 14.6 mmol, 2.5 g | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
product | 4-isopropylthiazole-2-carboxylic acid (2-carbamoyl-phenyl)-amide | 2.4 g, 56% | C(N)(=O)C1=C(C=CC=C1)NC(=O)C=1SC=C(N1)C(C)C | C14H15N3O2S
